data/oMe_Silver.jsonl
{"reaction_id": "NR-238_1-c2ccc(OC)cc2_2-COCC_3-c2ccccc2_4-C(C)(C)C","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccc(OC)cc2C(=O)O","c2ccccc2N=C=NC(C)(C)C","COCCO","CN(C)c1ccncc1"],"products_smiles": ["COCCOC(=O)c2ccc(OC)cc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccc(OC)cc2C(=O)OC(=[NH+]c2ccccc2)NC(C)(C)C","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccc(OC)cc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(OCOCC)c2ccc(OC)cc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "COCCOC(=O)c2ccc(OC)cc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
{"reaction_id": "NR-060_1-CCCC(C)C_2-C","name": "Dess-Martin Oxidation","level": "easy","reactants_smiles": ["C(CCCC(C)C)(C)([H])O","CC(=O)OI1(OC(=O)C)(OC(=O)C)C2=CC=CC=C2C(=O)O1"],"products_smiles": ["C(CCCC(C)C)(C)=O"],"conditions": "CH2Cl2 or other aprotic solvent (often implied, not explicitly stated in image)","mechnism_text_description": "The Dess-Martin oxidation converts primary alcohols (like benzyl alcohol shown in the mechanism detail) to aldehydes, or secondary alcohols to ketones, using Dess-Martin Periodinane (DMP). The mechanism begins with a ligand exchange reaction (Step 1): the alcohol (benzyl alcohol) displaces an acetate ligand on the hypervalent iodine atom of DMP, forming an alkoxyperiodinane intermediate and releasing acetic acid. In the second step (Step 2), another acetate molecule (or another base present) abstracts a proton from the carbon atom bearing the alkoxy group (the benzylic proton in this case). This initiates a concerted elimination: the C-H bond electrons form the new carbon-oxygen double bond (aldehyde carbonyl), and simultaneously the bond between the oxygen and the iodine atom breaks, transferring electrons to the iodine. This step releases the aldehyde product (benzaldehyde) and the reduced form of the periodinane (a 1,2-benziodoxol-3(1H)-one derivative).","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CC(=O)OI1(OC(C)=O)([OH+]C([H])(CCCC(C)C)(C))C2=CC=CC=C2C(=O)O1","step_weight": 0,"rationale": "The alcohol oxygen acts as a nucleophile toward the electron-deficient iodine(V) center, displacing an acetate due to iodine’s high electrophilicity and the good leaving group ability of acetate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(=O)OI1(OC(C)=O)([O]C([H])(CCCC(C)C)(C))C2=CC=CC=C2C(=O)O1","step_weight": 0,"rationale": "Acetate, a weak base present in the medium, abstracts the α-proton; the benzylic or α-carbon is relatively acidic due to adjacent oxygen, facilitating deprotonation under mild conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CCCC(C)C)(C)=O","step_weight": 0,"rationale": "The C–H bond electrons form the C=O, while the O–I bond breaks; iodine’s ability to stabilize reduction and acetate’s leaving ability drive the elimination to yield the carbonyl product."}],"description": "In the Dess–Martin oxidation, the alcohol oxygen coordinates to the electrophilic iodine(V) center, replacing an acetate ligand. Subsequent deprotonation at the α-carbon facilitates concerted elimination, forming the carbonyl and reducing iodine. Mild, aprotic conditions favor selective oxidation without overoxidation."}
